US04414390
A solution of 5-{3-trimethylammoniomethylimidazo[1,2-a]pyridine-2-yl}-8-methoxycarbostyril iodide (4.39 g) in water (40 ml) was refluxed while adding dropwise 10 ml of an aqueous solution having dissolved therein 440 mg of sodium cyanide. After completion of addition, the mixture was reacted for 30 minutes and then allowed to cool. Crystals which precipitated were collected by filtration and isolated by passing through a silica gel column. The crude crystals thus formed were recrystallized from methanol to give 0.85 g of 5-{3-cyanomethylimidazo[1,2-a]pyridine-2-yl}-8-methoxycarbostyril.

reactant | 5-{3-trimethylammoniomethylimidazo[1,2-a]pyridine-2-yl}-8-methoxycarbostyril iodide | 4.39 g | [I-].C[N+](C)(C)CC1=C(N=C2N1C=CC=C2)C2=C1C=CC(NC1=C(C=C2)OC)=O
reactant | sodium cyanide | 440 mg | [C-]#N.[Na+]
solvent | water | 40 ml | O | H2O
product | 5-{3-cyanomethylimidazo[1,2-a]pyridine-2-yl}-8-methoxycarbostyril | 0.85 g | C(#N)CC1=C(N=C2N1C=CC=C2)C2=C1C=CC(NC1=C(C=C2)OC)=O | C19H14N4O2
